US05521212
EXAMPLE 3 α-chloro-N-hydroxy-N-[(trans-2-phenylcyclopropyl)methyl]acetamide
To a stirred solution of N-[(trans-2-phenylcyclopropyl)methyl]-N-hydroxylamine (3.26 g, 20 mM) in methylene chloride (50 ml) was added chloroacetyl chloride (4.52 g, 40 mM) and triethylamine (4.04 g, 40 ml) at room temperature. After stirring for 5 hours, it was poured into saturated aqueous sodium bicarbonate. The whole was extracted with chloroform (2×100 ml). The extracts were washed with water and brine, then were added and evaporated in vacuo. Chromatographic purification (eluent chloroform:ethanol=15:1) of the residue provided 2 g (41.8% yield) of the desired product as a pale yellow oil.

reactant | N-[(trans-2-phenylcyclopropyl)methyl]-N-hydroxylamine | 20 mM, 3.26 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)CNO | C10H13NO
reactant | chloroacetyl chloride | 40 mM, 4.52 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 40 ml, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | α-chloro-N-hydroxy-N-[(trans-2-phenylcyclopropyl)methyl]acetamide | 2 g, 41.8% yield | ClCC(=O)N(C[C@H]1[C@@H](C1)C1=CC=CC=C1)O | C12H14ClNO2
